Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
ciprofloxacin / doxycycline / erythromycin base / Motrin / 
Penicillins / Bactrim / Flagyl / ketorolac / mint / shellfish 
derived / adhesive tape / methotrexate
 
Attending: ___.
 
Chief Complaint:
admitted for C2 of Blinatumomab
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
rs. ___ is a ___ year old female
with a history of Ph-negative pre-B ALL (diagnosed ___ s/p
modified ___ induction with MRD positive disease complicated
by segmental PEs (___), CALGB-9111 early intensification 
(C2D1
___ and WBRT (___), X-linked hypophosphatemic
rickets c/b chronic pain and T2DM status post C1 of blinatumomab
therapy now presenting for C2. 

INTERVAL HISTORY: Patient seen in clinic ___ prior to
admission. Overall, reports feeling well. Tolerated C1 of dose
ramp up of blinatumomab. She states that her stomach discomfort,
and nausea are well controlled. Using Zofran and ativan for
nausea control. She has yet not trialed marinol. Reports
appropriate bowel regimen with last BM yesterday. No vomiting,
fevers, chills, rigors, night sweats, recent sick contacts, URI
symptoms, dysuria, hematuria or frequency. 

REVIEW OF SYSTEMS: Otherwise negative.
 
Past Medical History:
ONCOLOGIC HISTORY (PER OMR)
===================================
Diagnosis of ___ chromosome negative acute 
lymphoblastic
leukemia. She was hospitalized from ___ to ___. During the hospitalization, she was diagnosed with pre-B
ALL and started on induction therapy according to ___
protocol. Her induction was delayed due to need to obtain bone
marrow biopsy and line placement in conscious sedation.  
 
The induction chemotherapy was complicated by one episode of
neutropenic fever without obvious source. She was discharged
home after day 22 of vincristine with acceptable counts. For
details of her presentation please see discharge summary from
___.

Her BM Aspirate is consistent with remission but is positive for
MRD. We discussed ongoing chemotherapy vs. blinatumomab. And
decided to proceed with CALGB 9111-Early intesification cycle 
IIA and blinatumomab will be used if MRD positive on 
subsequently
BMBX. She completed D1-D15 of cycle IIA but D22 was held

TREATMENT HISTORY (PER OMR)
===================================
___ Diagnosis of pre B ALL based on peripheral flow
--Negative for mutations by NGS 
--Normal cytogenetics, (+) FISH TCF/ZNF384 
-started on steroid prophase
--CTA here showed acute PE
___ BMBx non diagnostic
--LP Bloody tap
___ Ommaya placed
___ IT MTX complicated by severe vasovagal episode 
___ started ___ protocol 

Induction: 
D1-3 Daunorubicin
D1 Cyclophosphamide
D1,8,15,22 Vincristine
Prednisone
___ IT MTX complicated by severe vasovagal episode 
PEGASPARAGINASE OMITTED due to acute PE, D8 vincristine omitted
due to abdominal pain
___ BM aspirate to evaluate for MRD   (2.5%  ALL) 
-CycloPHOSPHAMIDE 1580 mg IV Day 1. (___)
 (1000 mg/m2) 
-VinCRIStine (Oncovin) 2 mg IV Days 15 and 22. ___ and
___   D22 OMITTED
-Cytarabine 120 mg IV Days 1, 2, 3, 4, 8, 9, 10 and 11.
___ and ___
 (75 mg/m2) 
-Pegaspargase 1500 units IV Day 22. ___
 (1000 units/m2) 
-mercaptopurine *NF* 50 mg oral  2 tabs for 100 mg daily dose
Daily D1-14"

___ - ___ WBRT

___ Blinotumomab 28 days (9mcg d1-7, then 28mcg d8-28)

PAST MEDICAL HISTORY (PER OMR)
=======================================
X-LINKED HYPOPHOSPHATEMIC RICKETS 
ALL
T2DM diet controlled
Anxiety     
PALPITATIONS                     
CESAREAN SECTION                                                
TUBAL LIGATION                                                  

 
Social History:
___
Family History:
Aunt with (+) ___ breast cancer
Paternal grandmother with uterine and ovarian cancer

 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION
==================================
24 HR Data (last updated ___ @ 1654) Temp: 99.0 (Tm 99.0),
BP: 107/67, HR: 87, RR: 18, O2 sat: 97%, O2 delivery: RA  
HEENT: Ommaya reservoir in place (no swelling, erythema or
discharge)
CV: RRR. Normal S1/S2. No MRG.   
LUNGS: CTAB. No increased WOB. Not using accessory muscles. 
ABD: Soft, ND. No pain to palpation. No rebound or guarding.  
EXT: WWP, moving b/l upper extremities purposefully
NEURO: A&Ox3. No focal deficits. 
SKIN: No rash, port on the R chest wall w/o erythema or 
discharge
ACCESS: SL POC without discharge, erythema or swelling

DISCHARGE PHYSICAL EXAMINATION
VSS  
HEENT: Ommaya reservoir in place (no swelling, erythema or
discharge)
CV: RRR. Normal S1/S2. No MRG.   
LUNGS: CTAB. No increased WOB. Not using accessory muscles. 
ABD: Soft, ND. No pain to palpation. No rebound or guarding.  
EXT: WWP, moving b/l upper extremities purposefully
NEURO: A&Ox3. No focal deficits. 
SKIN: No rash, port on the R chest wall w/o erythema or 
discharge
ACCESS: SL POC without discharge, erythema or swelling
 
Pertinent Results:
ADMISSION LABORATORY STUDIES
=================================
___ 04:04PM WBC: 8.0 RBC: 3.09* Hgb: 10.2* Hct: 30.3* MCV:
98 MCH: 33.0* MCHC: 33.7 RDW: 13.5 RDWSD: 49.1* Plt Ct: 292 
Neuts: 79.5* Lymphs: 14.0* Monos: 5.3 Eos: 0.4* Baso: 0.3 Im
___: 0.5 AbsNeut: 6.33* AbsLymp: 1.11* AbsMono: 0.42 AbsEos:
0.03* AbsBaso: 0.02 ___: 12.8* PTT: 35.0 ___: 1.2* 
Glucose: 91 UreaN: 7 Creat: 0.5 Na: 138 K: 4.2 Cl: 101 HCO3: 24
AnGap: 13 ALT: 13 AST: 16 LD(LDH): 204 AlkPhos: 82 TotBili: 0.5 
Albumin: 4.6 Calcium: 9.6 Phos: 2.6* Mg: 1.8 UricAcd: 5.1 
Ferritn: 376* CRP: 0.4 

DISCHARGE LABORATORY STUDIES

___ 05:55AM BLOOD WBC-7.8 RBC-2.90* Hgb-9.6* Hct-28.8* 
MCV-99* MCH-33.1* MCHC-33.3 RDW-13.7 RDWSD-49.8* Plt ___
___ 05:55AM BLOOD Neuts-68.8 Lymphs-18.1* Monos-12.0 
Eos-0.6* Baso-0.1 Im ___ AbsNeut-5.35 AbsLymp-1.41 
AbsMono-0.93* AbsEos-0.05 AbsBaso-0.01
___ 05:55AM BLOOD Glucose-92 UreaN-8 Creat-0.7 Na-143 K-4.4 
Cl-105 HCO3-24 AnGap-14
___ 05:55AM BLOOD ALT-10 AST-10 LD(LDH)-171 AlkPhos-74 
TotBili-0.5
___ 05:55AM BLOOD Albumin-4.4 Calcium-9.4 Phos-2.4* Mg-1.9 
UricAcd-4.7
 
Brief Hospital Course:
Mrs. ___ is a ___ year old female with a
history of Ph-negative pre-B ALL (diagnosed ___ s/p modified
___ induction with MRD positive disease complicated by
segmental PEs (___), CALGB-9111 early intensification (___) and WBRT (___), X-linked hypophosphatemic
rickets c/b chronic pain and T2DM s/p C1 of blinatumomab therapy
presenting for C2. 

ACUTE CONDITIONS
==============================

#CYTOKINE RELEASE SYNDROME: Patient developed acute symptoms
[fever (T101.2), worsening back/BLE pain, headache and nausea]
on calendar day 2 of blinatumomab infusion on ___. These
symptoms are concerning for cytokine release syndrome. She also
has mild bifrontal headache which is concerning for 
neurotoxicity
but does not have progressive neurological symptoms (i.e. no
alteration in mental status, aphasia, visual disturbances etc.).
Intervened with pain management which she seemed to have had an
appropriate response to and no fevers since. If symptoms of CRS 
and/or neurotoxicity outpatient, patient instructed to call 
immediately as plan to pursue steroids (dexamethasone) and/or 
IL-6R antagonist, tocilizumab +/-holding blinatumomab infusion
depending on symptom severity. We had low suspicion for
concomitant infection and as such, we held off empiric
antibiotics.
-F/U UA, Ucx, Bcx--NTD and CXR negative

#PRE B-CELL ALL ___ negative): 
#ENCOUNTER FOR CHEMOTHERAPY:
She is status post induction therapy with excellent CBC
consistent with remission. She underwent a bone marrow aspirate
on ___ but bone marrow biopsy was not performed as was
painful for patient. Results confirmed morphological remission
but she had evidence of persistent blasts at 2.6%. Plan was
devised per outpatient team to proceed with blinatumomab. Repeat
bone marrow aspirate on ___ confirms MRD(+). She is status
post C1 of blinatumomab (___) which was complicated by CRS
with some concern for neurotoxicity. She now presents for C2. 

Treatment Plan
-Blinatumomab 28mcg IV Days 1, 2, 3, 4, 5, 6, 7, 8, 9, 10, 11,
12, 13, 14, 15, 16, 17, 18, 19, 20, 21, 22, 23, 24, 25, 26, 27
and 28. 
-Monitor for CRS and neurotoxicity. If concerns for
neurotoxicity, can either stop infusion and/or give steroids
depending on severity--instructed to call with sx/sx
-Continue acyclovir and atovaquone for infectious prophylaxis
-f/u weekly for infusion change, lab check, MD visit, or sooner 
if issues arise

CHRONIC/STABLE/RESOLVED CONDITIONS
==========================================

#MULTIPLE LLL SEGMENTAL PULMONARY EMBOLI: Patient was on
therapeutic low molecular weight heparin but at some point this
was switched to oral anticoagulants, currently off therapeutic
anticoagulation due to gluteal hematoma. She completed 12 weeks
of anticoagulation for provoked VTE.

#X-LINKED HYPOPHOSPHATEMIC RICKETS: She was started on
calcitriol, calcium carbonate, vitamin D, and increased milk
intake. Her secondary hyperparathyroidism resolved with PTH and
calcium within normal range. TTG was within normal limits. She 
is
following with endocrinology. Plan for zoledronic acid as
outpatient in the near future. 
-Continues on vitamin D and calcitriol
-No longer taking calcium carbonate

#PULMONARY NODULES: CTA CHEST showed moderate right upper lobe
predominant centrilobular emphysema. It also demonstrated
multiple solid nodules bilaterally. Given high risk patient with
current smoking and significant pack year history, both a CT
follow-up in 3 to 6 months and in 18 to 24 months was
recommended. CT Chest ___ showed stable right lower lobe and
left lower lobe pulmonary nodules.

#CHRONIC PAIN SYNDROME: During recent admission, pain was
exacerbated in the setting of CRS symptoms but overall has been
attributed to X-linked hypophosphatemia. She is on Percocet
___ outpatient but switched to oxycodone on admission (5mg
q4-6hrs prn). Calcitriol recently lowered to 0.75mcg qd.  

#IATROGENIC ADRENAL INSUFFICIENCY: She continues on prednisone
(4mg PO qd, previously on 5mg)

#ANEMIA: Stable. MCV largely normal. No evidence of acute
bleeding. Transfuse for Hgb<7.

#ANXIETY: No acute exacerbation. She continues ativan 0.5 mg PO
every ___ hours prn, adjust prn.

#HISTORY OF COPD: No acute exacerbation, not on inhalers. 

#GERD: She continues on pantoprazole and ranitidine PRN

#DM2: Diet controlled (A1c 5.4% on ___, not on insulin or
oral agents. Monitor fingerstick prior to meals.

CORE MEASURES
=========================
#FEN: IVF prn/Replete PRN/Regular diet
#ACCESS: Porta Cath and PIV
#PROPHYLAXIS:  
     -Pain: oxycodone 5mg q4-6hr prn
     -Bowel: ondansetron and Ativan prn 
     -GI: PPI & ranitidine prn
     -DVT: LMWH 40mg daily, hold if plts < 50K 
#CODE: Presumed Full
#EMERGENCY CONTACT: Daughter ___ is her HCP ___.

#DISPO: home f/u as above with services 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acyclovir 400 mg PO Q12H 
2. Atovaquone Suspension 1500 mg PO DAILY 
3. Calcitriol 0.75 mcg PO DAILY 
4. LORazepam 0.5 mg PO Q4-6HRS anxiety/nausea 
5. Ondansetron 4 mg PO Q8H:PRN Nausea/Vomiting - First Line 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
6. Pantoprazole 40 mg PO Q24H 
7. PredniSONE 4 mg PO DAILY 
8. Senna 8.6 mg PO QHS:PRN Constipation - First Line 
9. Vitamin D ___ UNIT PO DAILY 
10. Dronabinol 2.5 mg PO BID:PRN nausea/vomiting  
11. Lidocaine-Prilocaine 1 Appl TP 1X/WEEK (FR) 
DE-ACCESSING/ACCESSING POC 
12. OxyCODONE--Acetaminophen (5mg-325mg) 1 TAB PO Q4H:PRN Pain - 
Moderate 

 
Discharge Medications:
1.  Blinatumomab 28 mcg IV Days 1, 2, 3, 4, 5, 6, 7, 8, 9, 10, 
11, 12, 13, 14, 15, 16, 17, 18, 19, 20, 21, 22, 23, 24, 25, 26, 
27 and 28. ___, 
___, 
___, 
___, 
___, 
___ and ___
 (28 mcg (Weight used: Actual Weight = 52.84 kg  BSA: 1.45 m2)) 
*Dose before rounding 28 mcg 
2.  Acyclovir 400 mg PO Q12H  
3.  Atovaquone Suspension 1500 mg PO DAILY  
4.  Calcitriol 0.75 mcg PO DAILY  
5.  Dronabinol 2.5 mg PO BID:PRN nausea/vomiting   
6.  Lidocaine-Prilocaine 1 Appl TP 1X/WEEK (FR) 
DE-ACCESSING/ACCESSING POC  
7.  LORazepam 0.5 mg PO Q4-6HRS anxiety/nausea  
8.  Ondansetron 4 mg PO Q8H:PRN Nausea/Vomiting - First Line 
  Reason for PRN duplicate override: Alternating agents for 
similar severity 
9.  OxyCODONE--Acetaminophen (5mg-325mg) 1 TAB PO Q4H:PRN Pain - 
Moderate  
10.  Pantoprazole 40 mg PO Q24H  
11.  PredniSONE 4 mg PO DAILY  
12.  Senna 8.6 mg PO QHS:PRN Constipation - First Line  
13.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary:
Cytokine Release Syndrome
Acute lymphoblastic leukemia

Secondary:
Type 2 diabetes
Anxiety
History of pulmonary embolism
X-linked hypophosphatemic rickets
Electrolyte Imbalances

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 

 
Discharge Instructions:
Dear ___ were admitted to receive your second cycle of blinatumomab. 
___ developed anticipated symptoms of inflammatory syndrome 
called CRS. We intervened with supportive care and continue to 
do well. ___ will continue your infusions outpatient with Dr. 
___. Please continue to take all of your medications as 
prescribed. It was a pleasure taking care of ___.

Sincerely,
Your ___ TEAM
 
Followup Instructions:
___